US08541455B2
To a solution of 1 g (4.6 mmol) of methyl 2-acetyl-3-phenylbut-3-enoate in 16 mL of DCM are successively added dropwise 20.8 mL (22.9 mmol) of a 1.1M solution of diethylzinc in toluene and 3.7 mL (45.8 mmol) of diiodomethane. The reaction medium is refluxed for 18 hours. After cooling to room temperature, the reaction mixture is treated with 100 mL of water and then extracted with DCM (3×100 mL). The organic phases are combined, washed successively with water (4×100 mL) and brine (100 mL), dried over Na2SO4, filtered and then concentrated under reduced pressure. The residue obtained is purified by chromatography on a column of silica gel, eluting with a 95/5 cyclohexane/EtOAc mixture. 280 mg of methyl 3-oxo-2(1-phenylcyclopropyl)butanoate are obtained in the form of a yellow oil.

reactant | methyl 2-acetyl-3-phenylbut-3-enoate | 4.6 mmol, 1 g | C(C)(=O)C(C(=O)OC)C(=C)C1=CC=CC=C1 | C13H14O3
reactant | diethylzinc | C(C)[Zn]CC
reactant | diiodomethane | 45.8 mmol, 3.7 mL | ICI | CH2I2
reactant | water | 100 mL | O | H2O
solvent | DCM | 16 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 3-oxo-2(1-phenylcyclopropyl)butanoate | 280 mg, Yield=26% | O=C(C(C(=O)OC)C1(CC1)C1=CC=CC=C1)C | C14H16O3
